* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM2115
*BIPOLAR OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM2115 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm2115_s
X2 +IN2 -IN2 V+ V- OUT2 njm2115_s
.ENDS NJM2115
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm2115_s 1 2 3 4 5
  C1   11 12 {C1}
  C2    6  7 {C2}
  DC    5 53 DMOD2
  DE   54  5 DMOD2
  DLP  90 91 DMOD1
  DLN  92 90 DMOD1
  DP    4  3 DMOD1
  EGND 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 poly(5) vb vc ve vlp vln 0 1.92E+05 -1.00E+03 1.00E+03 1.92E+05 -1.92E+05
  GA    6  0 11 12 {GA}
  GCM   0  6 10 99 {GCM}
  IEE   3 10 dc {IEE}
  HLIM 90  0 vlim 1K
  Q1   11  2 13 PNP1
  Q2   12  1 14 PNP2
  R2    6  9 100.00E3
  RC1   4 11 {RC1}
  RC2   4 12 {RC2}
  RE1  13 10 {RE1}
  RE2  14 10 {RE2}
  REE  10 99 {REE}
  RO1   8  5 {RO1}
  RO2   7 99 {RO2}
  RP    3  4 {RP}
  VB    9  0 dc 0
  VC    3 53 dc {VC}
  VE   54  4 dc {VE}
  VLIM  7  8 dc 0
  VLP  91  0 dc {VLP}
  VLN   0 92 dc {VLN}

.MODEL DMOD1 D (T_MEASURED = 25 IS = 8.00E-16)
.MODEL DMOD2 D (T_MEASURED = 25 IS = 8.00E-16 RS = 1m CJO = 10p)

.MODEL PNP1 PNP (T_MEASURED = 25 IS = 8.00E-16 BF = 544.7)
.MODEL PNP2 PNP (T_MEASURED = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1   = 2.99E-11
+ C2   = 2.60E-11
+ GCM  = 4.16E-07
+ GA   = 2.08E-03
+ IEE  = 1.09E-04
+ RC1  = 479.73
+ RC2  = 479.73
+ RE1  = 8.03
+ RE2  = 8.03
+ REE  = 1.83E+06
+ RO1  = 50
+ RO2  = 25
+ RP   = 3.05E+03
+ VC   = 1.0713
+ VE   = 1.0714
+ VLP  = 10
+ VLN  = 10
+ ISM2 = 8.27401E-16
+ BFM2 = 544.7

.ends njm2115_s
*$
