* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM2122
*BIPOLAR OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM2122 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm2122_s
X2 +IN2 -IN2 V+ V- OUT2 njm2122_s
.ENDS NJM2122
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm2122_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 20 10 DMOD2
VTL 20 4 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
Q1 11 2 13 NPN1 
Q2 12 1 14 NPN2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 3 21 {VRC}
VRC2 3 22 {VRC}
RE2 14 10 {RE1}
RE1 13 10 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}
.MODEL DMOD1 D(T_MEASURED = 25 IS = 4.81E-24)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL NPN1 NPN(TREF = 25 IS = 8.00E-16 BF = 150.6928)
.MODEL NPN2 NPN(TREF = 25 IS = {ISM2} BF = {BFM2})
.PARAM
+ C1   = 1.00E-10
+ C2   = 3.65E-10
+ CE   = 0.00E+00
+ GCM  = 4.22E-06
+ GA   = 2.11E-02
+ GB   = 0.95
+ GC   = 7.27E+03
+ ITL  = 1.16E-03
+ RC1  = 47.33
+ RC   = 1.38E-04
+ RE1  = 2.74
+ RE   = 1.72E+05
+ RO1  = 25
+ RO2  = 50
+ RP   = 1.25E+04
+ VC   = 1.12083957
+ VE   = 1.12083957
+ VTL  = 1.50E+00
+ VRC  = 1.95
+ ICE  = 2.1E-3
+ ISM2 = 7.65381E-16
+ BFM2 = 170.785185
.ends njm2122_s
*$
