* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM2716
*BIPOLAR OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM2716 +IN -IN V+ V- OUT
X1 +IN -IN V+ V- OUT njm2716_s
.ENDS NJM2716
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm2716_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
Q1 11 2 13 PNP1 
Q2 12 1 14 PNP2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 21 4 {VRC}
VRC2 22 4 {VRC}
RE2 10 14 {RE1}
RE1 10 13 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 5.84E-05)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)

.MODEL PNP1 PNP(TREF = 25 IS = 8.00E-16 BF = 632.5791855)
.MODEL PNP2 PNP(TREF = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1   = 1.01E-12
+ C2   = 3.04E-11
+ CE   = 0.00E+00
+ GCM  = 6.53E-07
+ GA   = 6.53E-03
+ GB   = 0.34
+ GC   = 1.38E+04
+ ITL  = 1.40E-03
+ RC1  = 153.12
+ RC   = 7.27E-05
+ RE1  = 116.20
+ RE   = 1.43E+05
+ RO1  = 50
+ RO2  = 25
+ RP   = 4.00E+03
+ VC   = 1.0598721
+ VE   = 0.858373991
+VTL   = 1.28E+00
+VRC   = 0.35
+ICE   = 1.4E-3
+ ISM2 = 8.0597E-16
+ BFM2 = 781.0055866

.ends njm2716_s
*$
